* C:\Users\karsu\OneDrive\Documents\LTSpice Projects\CD_Amp.asc
M1 VDD N001 P001 N002 NMOS
R1 P001 0 50k
R2 N001 0 10k
R3 VDD N001 90k
V1 VDD 0 10
C1 N001 Vin 1µ
C2 Vout N002 1µ
V2 Vin 0 SINE(0 10m 1k) AC 1
.include 180nm_bulk.lib
* .tran 5m
.meas TRAN Vin_p2p PP V(Vin)
.meas TRAN Vout_p2p PP V(Vout)
.meas TRAN Vol_Gain PARAM  Vout_p2p/Vin_p2p
.ac dec 100 1 100Meg
.backanno
.end
