* C:\Users\karsu\OneDrive\Documents\LTSpice Projects\CS_Amplifier_Analysis.asc
V1 VDD 0 10
Vin N001 0 SINE(0 10m 1k) AC 1
RD VDD VD 1k
C2 Vout VD 10µ
M1 VD VG 0 0 NMOS l=0.18u w=5u
C1 N001 VG 10µ
R1 VDD VG 90k
R2 VG 0 10k
* .tran 10m
.include 180nm_bulk.lib
.ac dec 100 1 100G
.backanno
.end
